US03952012
A mixture of 24.4 g. (0.1 mole) 5-(p-chlorobenzyl)-pyrrole-2-acetonitrile, 41.7 g. (0.3 mole) of potassium carbonate and 16.1 g. (0.105 mole) of ethyl iodide in 300 ml. of methylethylketone is refluxed overnight. The reaction mixture is then poured into water and extracted with chloroform. The organic solutions are combined, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo. The residue is crystallized from 2-propanol to give about 13 g. of crude solid. The solid is sublimed overnight at 140°C. and 0.025 mm. Hg. The sublimate is successively recrystallized from 2-propanol, benzene and hexane to give 5-(p-chlorobenzoyl)-1-ethylpyrrole-2-acetonitrile as a white solid, m.p. 145°-147°C.

reactant | 5-(p-chlorobenzyl)-pyrrole-2-acetonitrile | 0.1 mole | ClC1=CC=C(CC2=CC=C(N2)CC#N)C=C1 | C13H11ClN2
reactant | potassium carbonate | 0.3 mole | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.105 mole | C(C)I | C2H5I
reactant | methylethylketone | CC(=O)CC | C4H8O
solvent | water | O | H2O
product | 5-(p-chlorobenzoyl)-1-ethylpyrrole-2-acetonitrile | ClC1=CC=C(C(=O)C2=CC=C(N2CC)CC#N)C=C1 | C15H13ClN2O
